US05496935
1-(5-O-Acetyl-2,3-dideoxy-3-fluoro-β-D-ribofuranosyl)-4-thiothymine
5'-O-Acetyl-3'-fluorothymidine (400 mg, 1.4 mmoles) are heated under reflux for 24 hours with 933 mg of phosphorus pentasulfide in 32 mL of pyridine. After the solvent is driven off, the residue is fractionated by column chromatography on Kieselgel 40 and yields the desired compound as a yellow oil.

reactant | 5'-O-Acetyl-3'-fluorothymidine | 1.4 mmoles, 400 mg | C(C)(=O)OC[C@@H]1[C@](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)(O)F | C12H15FN2O6
reactant | phosphorus pentasulfide | 933 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 32 mL | N1=CC=CC=C1 | C5H5N
product | 1-(5-O-Acetyl-2,3-dideoxy-3-fluoro-β-D-ribofuranosyl)-4-thiothymine | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=S)C(C)=C1)F | C12H15FN2O4S
